US08912210B2
Step C: 5-(2,3-Difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one
To a stirred solution of 5-(2,3-difluorophenyl)piperidin-2-one (8.88 g, 42 mmol) in THF (250 mL) and NMP (170 mL) at 0° C. was added lithium bis(trimethylsilyl)amide (1.0 M in THF, 48 mL, 48 mmol) over 5 min, keeping the internal temperature of the reaction mixture below 5° C. The resulting mixture was stirred at 0° C. for 15 min, then 2,2,2-trifluoroethyl triflate (11.2 g, 48 mmol) was added dropwise, keeping the internal temperature of the reaction mixture below 5° C. The reaction mixture was allowed to warm slowly to ambient temperature and stirring was continued for 3 h. The resulting mixture was partitioned between saturated aqueous sodium bicarbonate (800 mL) and EtOAc (1 L). The organic layer was removed and the aqueous phase was extracted further with EtOAc (500 mL). The combined organic extracts were washed with water, then brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc—100:0 to 0:100, to give the title compound. MS: m/z=293.9 (M+1).

reactant | 5-(2,3-difluorophenyl)piperidin-2-one | 42 mmol, 8.88 g | FC1=C(C=CC=C1F)C1CCC(NC1)=O | C11H11F2NO
reactant | lithium bis(trimethylsilyl)amide | 48 mmol, 1.0 M, 48 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,2,2-trifluoroethyl triflate | 48 mmol, 11.2 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | NMP | 170 mL | CN1CCCC1=O | C5H9NO
product | 5-(2,3-Difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one | FC1=C(C=CC=C1F)C1CCC(N(C1)CC(F)(F)F)=O | C13H12F5NO
